US08541457B2
Synthesis of 4-Methyl-2-(2-trifluoromethoxybenzoylamino)thiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 2-trifluoromethoxybenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 30% yield; m.p. 140-141° C.; 1H NMR (CDCl3, 300 MHz) δ 7.98 (dd, J=1.8, 7.8 Hz, 1H), 7.60 (ddd, J=1.8, 7.6, 8.2 Hz, 1H), 7.43 (dt, J=1.0, 7.6 Hz, 1H), 7.46-7.25 (m, 6H), 5.98 (t, J=5.3 Hz, 1H), 4.57 (d, J=5.6 Hz, 2H), 3.1 (s, 3H); MS (ES+) m/z 436 (M+1).

reactant | 2-trifluoromethoxybenzoyl chloride | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 4-Methyl-2-(2-trifluoromethoxybenzoylamino)thiazole-5-carboxylic Acid Benzylamide | 30% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=C(C=CC=C1)OC(F)(F)F)=O)C | C20H16F3N3O3S
